US07368578B2
A mixture of 4-chloromethyl-2-(2-furyl)-5-methyl-1,3-oxazole (22.3 g), 3-hydroxybenzyl alcohol (10.0 g), potassium carbonate (11.14 g) and N,N-dimethylformamide (200 mL) was stirred at 90° C. for 4 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography, and eluted with ethyl acetate-hexane (1:1, v/v) to give (3-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}phenyl)methanol as colorless crystals (12.75 g, yield 55%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 100-101° C.

reactant | 4-chloromethyl-2-(2-furyl)-5-methyl-1,3-oxazole | 22.3 g | ClCC=1N=C(OC1C)C=1OC=CC1 | C9H8ClNO2
reactant | 3-hydroxybenzyl alcohol | 10.0 g | OC=1C=C(CO)C=CC1 | C7H8O2
reactant | potassium carbonate | 11.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | (3-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}phenyl)methanol | 12.75 g, yield 55% | O1C(=CC=C1)C=1OC(=C(N1)COC=1C=C(C=CC1)CO)C | C16H15NO4
